US04665179
[2-(2-aminoethyl)amino-5-nitrophenyl]-benzyl sulphone
16.0 g of benzyl 2-chloro-5-nitrophenyl sulphone and 12.0 g of 1,2-diaminoethane are refluxed in 100 ml of isopropanol for one hour. The reaction mixture is cooled down, and the solids are filtered off with suction, are washed with 50 ml of water and are dried. This gives 19.2 g of pale yellow [2-(2-aminoethyl)-amino-5-nitrophenyl]-benzyl sulphone.

reactant | benzyl 2-chloro-5-nitrophenyl sulphone | 16.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)CC1=CC=CC=C1 | C13H10ClNO4S
reactant | 1,2-diaminoethane | 12.0 g | NCCN | C2H8N2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | [2-(2-aminoethyl)amino-5-nitrophenyl]-benzyl sulphone | NCCNC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)CC1=CC=CC=C1 | C15H17N3O4S
